US07713979B2
3-(2,4-Dichloro-benzyl)-1-(cis-2-methyl-4-oxo-cyclohexyl)-pyrrolidin-2-one
Dissolve 3-(2,4-dichloro-benzyl)-1-(cis-7-methyl-1,4-dioxa-spiro[4.5]dec-8-yl)-pyrrolidin-2-one (2.34 g, 5.87 mmol) in acetone (100 mL) and add TsOH (1.01 g, 5.87 mmol). Stir the reaction at room temperature for 24 hours until the starting material has been gone. Add saturated NaHCO3 (100 mL) and extract the aqueous layer with ethyl acetate (3×200 mL). Combine the organic layers and dry with Na2SO4, filter and concentrate to give 1.95 g (94%) of the crude title compound as a white solid: Mass spectrum (ion spray): m/z=354.2, 356.1 (M+1).

reactant | 3-(2,4-dichloro-benzyl)-1-(cis-7-methyl-1,4-dioxa-spiro[4.5]dec-8-yl)-pyrrolidin-2-one | 5.87 mmol, 2.34 g | ClC1=C(CC2C(N(CC2)[C@@H]2[C@@H](CC3(OCCO3)CC2)C)=O)C=CC(=C1)Cl | C20H25Cl2NO3
reactant | TsOH | 5.87 mmol, 1.01 g | CC=1C=CC(=CC1)S(=O)(=O)O | C7H8O3S
solvent | acetone | 100 mL | CC(=O)C | C3H6O
product | 3-(2,4-Dichloro-benzyl)-1-(cis-2-methyl-4-oxo-cyclohexyl)-pyrrolidin-2-one | 1.95 g, 94% | ClC1=C(CC2C(N(CC2)[C@H]2[C@H](CC(CC2)=O)C)=O)C=CC(=C1)Cl | C18H21Cl2NO2
